US05130119
(d) 3-Acetoxyacetamido-5-fluoro-2-hydroxy-benzoic acid-(2,2,2,-trifluoro-ethyl)amide
6.3 (25 mmol) of crude 3-amino-5-fluoro-2-hydroxybenzoic acid-(2,2,2,-trifluoro-ethyl)amide is dissolved in 30 ml of THF, 3.04 g (30 mmol) of triethylamine as well as 4.1 g (30 mmol) of acetoxyacetylchloride are added and stirred for 12 hours at room temperature. The reaction solution is then concentrated by evaporation in a vacuum and the residue is chromatographed on silica gel 60 with ethyl acetate/hexane. 5.52 g=62.7% of the theoretical yield is obtained as an amorphous solid.

reactant | 3-amino-5-fluoro-2-hydroxybenzoic acid-(2,2,2,-trifluoro-ethyl)amide | FC(CNC(C1=C(C(=CC(=C1)F)N)O)=O)(F)F | C9H8F4N2O2
reactant | triethylamine | 30 mmol, 3.04 g | C(C)N(CC)CC | C6H15N
reactant | acetoxyacetylchloride | 30 mmol, 4.1 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-Acetoxyacetamido-5-fluoro-2-hydroxy-benzoic acid-(2,2,2,-trifluoro-ethyl)amide | FC(CNC(C1=C(C(=CC(=C1)F)NC(COC(C)=O)=O)O)=O)(F)F | C13H12F4N2O5
